US09029409B2
To a stirred solution of N-(4-fluoro-3-methoxybenzyl)-6-formyl-2-methylpyrimidine-4-carboxamide (6.75 g, 22.28 mmol, Preparation #8) and NH2OH.HCl (3.09 g, 44.56 mmol, Sisco Research Labs) in aqueous EtOH (75%, 100 mL), was added sodium acetate (5.48 g, 66.84 mmol, Spectrochem). The reaction mixture was heated to reflux at about 100° C. for about 1 h. Then reaction mixture was cooled to RT and poured into ice cold water (140 mL). The resulting solids were filtered, washed with hexane (100 mL) and dried under vacuum to afford N-(4-fluoro-3-methoxybenzyl)-6-((hydroxyimino)methyl)-2-methylpyrimidine-4-carboxamide as a light yellow solid 5.60 g (80%), 1H NMR (400 MHz, DMSO): δ 12.40 (s, 1H), 9.463-9.432 (t, J=8.1 Hz, 1H), 8.10 (s, 1H), 8.08 (s, 1H), 7.17-7.11 (m, 1H), 6.89-6.86 (m, 1H), 4.477-4.461 (d, J=6.4 Hz, 2H), 3.81 (s, 3H), 2.72 (s, 3H), MS m/z: 318.8 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-6-formyl-2-methylpyrimidine-4-carboxamide | 22.28 mmol, 6.75 g | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C=O)C)C=C1)OC | C15H14FN3O3
reactant | NH2OH.HCl | 44.56 mmol, 3.09 g | NO.Cl
reactant | sodium acetate | 66.84 mmol, 5.48 g | C(C)(=O)[O-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | N-(4-fluoro-3-methoxybenzyl)-6-((hydroxyimino)methyl)-2-methylpyrimidine-4-carboxamide | 5.60 g, 80% | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C=NO)C)C=C1)OC | C15H15FN4O3
